US08835449B2
1-(2-aminoethyl)-6-(2,4-dimethoxyphenyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one hydrochloride
To a solution of EtOH (50 mL, 860 mmol) in EtOAc (390 mL), cooled in an ice/water bath, was slowly added acetyl chloride (55 mL, 770 mmol) over 3 minutes. After 5 minutes the cooling bath was removed, and after stirring for 45 min, the solution was added to tert-butyl 2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)ethylcarbamate (31.7 g, 77.8 mmol). A suspension formed over time, and after stirring for 5 h, the solid was collected by vacuum filtration, rinsing with EtOAc. The solid was pulled dry and dried further under vacuum to afford 26.6 g (99.3%) of the desired product as a colorless solid.

reactant | EtOH | 860 mmol, 50 mL | CCO | C2H6O
reactant | acetyl chloride | 770 mmol, 55 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 2-(6-(2,4-dimethoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)ethylcarbamate | 77.8 mmol, 31.7 g | COC1=C(C=CC(=C1)OC)C1=CC(NC(N1CCNC(OC(C)(C)C)=O)=S)=O | C19H25N3O5S
solvent | EtOAc | 390 mL | CCOC(=O)C | C4H8O2
product | 1-(2-aminoethyl)-6-(2,4-dimethoxyphenyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one hydrochloride | 26.6 g, 99.3% | Cl.NCCN1C(NC(C=C1C1=C(C=C(C=C1)OC)OC)=O)=S | InChI=1S/C14H17N3O3S.ClH/c1-19-9-3-4-10(12(7-9)20-2)11-8-13(18)16-14(21)17(11)6-5-15;/h3-4,7-8H,5-6,15H2,1-2H3,(H,16,18,21);1H
